2141-07-07 06:45:00 Physician Resident Progress Note
Chief Complaint: Hypoglycemia and unresponsiveness
   24 Hour Events:
   - PICC pulled, will put in order for new PICC after cultures are
   negative and if he stays afebrile.
   - Overnight BP to 90/50 while sleeping with no other changes to vitals
   - Being covered with vanc, cefepime, bactrim and tobra.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-7-6**] 07:45 PM
   Vancomycin - [**2141-7-6**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, Chills or Sweats
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2141-7-7**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 92 (80 - 98) bpm
   BP: 124/69(81) {91/39(58) - 132/77(90)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                  3,545 mL
                                                                    261 mL
   PO:
                  TF:
                                                                     25 mL
                                                                    161 mL
   IVF:
                                                                  3,305 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    360 mL
   Urine:
                                                                    450 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,545 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 20 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: NAD, on vent through trach.
   HEENT: PERRL, neg scleral icterus. MM moist.  Neck supple
   CV: Distant heart sounds
   Resp: Course breath sounds bilaterally
   Abdominal: Soft, Non-tender, +BS, G tube c/d/i
   Musculoskeletal: Muscle wasting
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   346 K/uL
   9.1 g/dL
   124 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.9 mEq/L
   10 mg/dL
   105 mEq/L
   141 mEq/L
   28.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
   WBC
   8.4
   Hct
   28.0
   Plt
   346
   Cr
   0.3
   TropT
   <0.01
   Glucose
   124
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:89.7
   %, Band:0.0 %, Lymph:6.8 %, Mono:3.0 %, Eos:0.4 %, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3375**] is a 53 year old male with PMH of chronic vent/trach, severe
   COPD, prior L CVA with residual R-sided weakness, and recent admission
   for VAP who presents from rehab after being found unresponsive
   overnight.
   # Unresponsiveness - Currently of unclear etiology, although
   differential includes infection in the setting of hypotension and
   leukocytosis vs mucus plugging, hypercapnia, or drug related
   (specifically oxycodone).  Also cannot rule out seizure. It is possible
   that he may have aspirated in this setting and developed aspiration
   pneumonitis versus pneumonia.  Alternatively given an absence of CXR
   findings, a source of infection may be his PICC line.
   - Continue with mechanical ventilation and wean as tolerated.  ABC in
   ED 7.36/60/78 - appears to be baseline CO2.
   - Treat for possible PNA with tobramycin, bactrim and cefepime.  Added
   vanco for additional gram positive coverage.
   - d/c PICC line and send tip for culture
   - sputum culture
   - CE negative x2.
   - Follow WBC count and fever curve.
   - Continue current seizure medications
   - get 24 hour EEG
   - consider neuro consult in AM
   - Continue to follow cultures
   # Hypotension: Systolic BP 70s at rehab and on arrival to ED.  Per last
   d/c summary patient had multiple episodes of hypotension to SBP 70s
   during last admission attributed to sepsis vs adrenal insufficiency.
   Differential includes sepsis, adrenal insufficiency, dehydration
   (increased hct and creatinine which may point to dehydration), or
   autonomic instability.
   - Treat possible PNA with broad spectrum antibiotics as above.  Follow
   culture data
   - Continue with IV hydrocortisone for likely adrenal insufficiency.
   - Continue to hold home diltiazem and lasix
   - bolus IVF as needed, would tolerate a lower BP id he is mentating and
   making urine
   # Leukocytosis: Likely due to infection versus steroid induced.
   - WBC this AM was 8.4 with continued left shift. Continue to [**Last Name (un) 3379**] WBC.
   - Continue with steroids
   - PICC line pulled with tip culture pending.
   - d/c femoral line and get new PICC line placed pending negative blood
   cultures
   # Acute renal failure: b/l 0.2-0.3, 0.5 on presentation which may be
   acute renal failure for him.
   - Renal function back to baseline with AM creatinine of 0.2.
   # Anemia: Baseline hct 25-27.  Hct on admission was 32.3, again may
   point towards decreased volume status as etiology of hypotension.
   # Right leg pain: He had had this pain for several years, it is
   unchanged and he is on chronic narcotics. On exam no evidence of edema
   or tenderness
   - continue pains meds, but hold for sedation
   # Recent history of suicidal ideation during last admission was
   followed by psychiatry and had 1:1 sitter.  Pt denies any suicidal or
   homocidal ideation currently.
   - Continue with home psychiatric medications.
   # Diabetes mellitus: Elevated BG last admission in setting of steroid
   use.
   - Continue glargine and insulin sliding scale
   - Consider insulin drip if hyperglycemic.
   # Seizure disorder:
   - Continue outpatient dose of levetiracetam 250 mg PO BID, divalproex
   875 mg TID
   - consider neuro consult EEG
   # Schizophrenia:
   - Continue outpatient dose of risperidone
   # F/E/N: Tube feeds via PEG
   - Monitor lytes and replete PRN
   # PPx: proton pump inhibitor for stress ulcer prophylaxis, SC
   heparin for DVT prophylaxis
   # Access: Right femoral line.  Plan to order PICC placement so that
   femoral line can be pulled.
   # Communication: Guardian [**Name (NI) 149**] [**Name (NI) 3322**] [**Telephone/Fax (1) 3316**], fax
   [**Telephone/Fax (1) 3377**].
   # Code: Full
   # Dispo: ICU.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-6**] 09:30 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-07-07 09:50:00 Physician Attending Progress Note
Chief Complaint: 53 yr man with endstage COPD, chronic vent dependence,
   s/p recent VAP on [**Location (un) **] Service, here for intermittent obtundation
   which resolves spontaneously
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2141-7-6**] 04:02 PM
 PICC LINE - START [**2141-7-6**] 04:04 PM
   From OSH not sure of insertion date
 MULTI LUMEN - START [**2141-7-6**] 09:00 PM
 MULTI LUMEN - STOP [**2141-7-6**] 09:02 PM
 PICC LINE - STOP [**2141-7-6**] 09:04 PM
   From OSH not sure of insertion date
   Overnight - BP to 90's during sleep
   Adding Vanco for ? line sepsis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-7-6**] 07:45 PM
   Vancomycin - [**2141-7-6**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   tobramycin, RISS, folate, MVI, hydrocort, keppra, lanzoprazole,
   effexor, respiradone, dulcolax, hep SQ, senna, colace, depakote,
   bactrim, nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-7**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 105 (80 - 105) bpm
   BP: 113/57(70) {91/39(58) - 137/77(90)} mmHg
   RR: 11 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                  3,545 mL
                                                                    431 mL
   PO:
                  TF:
                                                                     25 mL
                                                                    251 mL
   IVF:
                                                                  3,305 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    520 mL
   Urine:
                                                                    450 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,545 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   346 K/uL
   124 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.9 mEq/L
   10 mg/dL
   105 mEq/L
   141 mEq/L
   28.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
   WBC
   8.4
   Hct
   28.0
   Plt
   346
   Cr
   0.3
   TropT
   <0.01
   Glucose
   124
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:89.7
   %, Band:0.0 %, Lymph:6.8 %, Mono:3.0 %, Eos:0.4 %, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR- no new films
   Microbiology: pending
   Assessment and Plan
   1. Obtundation - possible seizure vs new infection. Doubt cardiac event
   (first set of enzymes neg, no ECG changes)
                          WBC is now down with no change in CXR, cultures
   pending
                          No new infiltrate on CXR, covering broadly
   2. Resp Failure - on Chronic Vent - on AC at CVH with 40% FiO2
                          No change not weaning candidate
   3. Hypotension - fluid responsive, pressure now stable
   3.? Infection - Cefopime/Tobra/Vanco/Bactrim to cover broadly for
   resistant gm negatives, ? MRSA
                           Lung source is most probable, urine appears
   clean, no localizing signs elsewhere
                           Could be catheter related - pull PICC with fem
   in place and replace PICC in 24h
   4. Adrenal Insufficiency - on stress doses of steroids
   5. s/p CVA - not active
   6. Hx of Seizures - continue on current seizure meds
                                  Consider Neuro Consult to address
   possible break thru seizures
   7. Schizophrenia - continue psych meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-6**] 09:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2141-07-08 07:37:00 Physician Resident Progress Note
Chief Complaint: Unresponsiveness
   24 Hour Events:
   - UOP dropped a little overnight, received 500cc NSS with increased UOP
   (>100cc/hr)
   - PICC to be placed by IR given history of difficult PICC placement
   tomorrow.
   - Gram Stain of sputum culture growing out Gram Neg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2141-7-7**] 04:04 PM
   Vancomycin - [**2141-7-7**] 08:00 PM
   Cefipime - [**2141-7-8**] 07:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2141-7-8**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 82 (75 - 112) bpm
   BP: 94/46(55) {94/46(55) - 137/70(85)} mmHg
   RR: 13 (6 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,168 mL
                                                                  1,254 mL
   PO:
             TF:
                                                                  1,178 mL
                                                                    479 mL
   IVF:
                                                                    750 mL
                                                                    675 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    235 mL
   Urine:
                                                                  2,270 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -102 mL
                                                                  1,019 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 5.2 L/min
   Physical Examination
   Gen: NAD, gowned in bed
   HEENT: PERRL, neg scleral icterus, MM moist, neg cervical
   lymphadenopathy
   Pulm: Course breath sounds BL
   Abd: Mildly distended with some tenderness to palpation.  +BS
   Ext: No c/c/e, 1+ dp BL
   Neuro: Grossly intact
   Labs / Radiology
   288 K/uL
   8.7 g/dL
   154 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.6 mEq/L
   12 mg/dL
   102 mEq/L
   138 mEq/L
   27.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
   WBC
   8.4
   5.7
   Hct
   28.0
   27.6
   Plt
   346
   288
   Cr
   0.3
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3375**] is a 53 year old male with PMH of chronic vent/trach, severe
   COPD, prior L CVA with residual R-sided weakness, and recent admission
   for VAP who presents from rehab after being found unresponsive
   overnight.
   # Unresponsiveness - Currently of unclear etiology, although
   differential includes infection in the setting of hypotension and
   leukocytosis vs mucus plugging, hypercapnia, or drug related
   (specifically oxycodone).  Also cannot rule out seizure. It is possible
   that he may have aspirated in this setting and developed aspiration
   pneumonitis versus pneumonia.  Alternatively given an absence of CXR
   findings, a source of infection may be his PICC line.
   - Continue with mechanical ventilation, currently at baseline vent
   settings.
   - Treat for possible PNA with tobramycin, bactrim and cefepime.  Added
   vanco for additional gram positive coverage
   # Hypotension: Systolic BP 70s at rehab and on arrival to ED.  Per last
   d/c summary patient had multiple episodes of hypotension to SBP 70s
   during last admission attributed to sepsis vs adrenal insufficiency.
   Differential includes sepsis, adrenal insufficiency, dehydration
   (increased hct and creatinine which may point to dehydration), or
   autonomic instability.
   - Treat possible PNA with broad spectrum antibiotics as above.  Follow
   culture data.
   - Continue with IV hydrocortisone for likely adrenal insufficiency.
   - Continue to hold home diltiazem and lasix.
   - Continue to bolus IVF as needed.
   # Leukocytosis: Likely due to infection versus steroid induced.
   - WBC this AM was 5.4. Continue to trend CBC
   - Continue with steroids
   - d/c femoral line when PICC placed.
   # Acute renal failure: b/l 0.2-0.3, 0.5 on presentation which may be
   acute renal failure for him.
   - AM creatinine of 0.4, continue to trend
   - Oliguric overnight, IVF bolus as necessary.
   # Anemia: Baseline hct 25-27.  Hct on admission was 32.3, again may
   point towards decreased volume status as etiology of hypotension.
   Currently 27.6.
   # Right leg pain: He had this pain for several years, it is unchanged
   and he is on chronic narcotics. On exam no evidence of edema or
   tenderness
   - continue pains meds, but hold for sedation
   # Recent history of suicidal ideation during last admission was
   followed by psychiatry and had 1:1 sitter.  Pt denies any suicidal or
   homocidal ideation currently.
   - Continue with home psychiatric medications.
   # Diabetes mellitus: Elevated BG last admission in setting of steroid
   use.
   - FS between 100-200.
   - Continue glargine and insulin sliding scale
   - Consider insulin drip if hyperglycemic.
   # Constipation:
   - Standing lactulose PRN, will ask nursing to give to patient today.
   # Seizure disorder:
   - Continue outpatient dose of levetiracetam 250 mg PO BID, divalproex
   875 mg TID
   - consider neuro consult EEG
   # Schizophrenia:
   - Continue outpatient dose of risperidone
   # F/E/N: Tube feeds via PEG
   - Monitor lytes and replete PRN
   # PPx: proton pump inhibitor for stress ulcer prophylaxis, SC
   heparin for DVT prophylaxis
   # Access: Right femoral line.  Plan to order PICC placement so that
   femoral line can be pulled.
   # Communication: Guardian [**Name (NI) 149**] [**Name (NI) 3322**] [**Telephone/Fax (1) 3316**], fax
   [**Telephone/Fax (1) 3377**].
   # Code: Full
   # Dispo: Rehab hospital when PICC placed.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-8**] 04:46 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-07-09 07:57:00 Physician Resident Progress Note
Chief Complaint: Unresponsiveness
   24 Hour Events:
   Started talking again and consented to exam due to leg pain. Wasn't
   well controlled with tylenol and ibuprofen. Was started on a PRN for
   oxycodone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2141-7-7**] 04:04 PM
   Vancomycin - [**2141-7-8**] 08:00 PM
   Cefipime - [**2141-7-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-7-8**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2141-7-9**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Diarrhea,
   No(t) Constipation
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2141-7-9**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 97 (82 - 97) bpm
   BP: 104/44(58) {104/44(58) - 143/72(89)} mmHg
   RR: 9 (9 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,396 mL
                                                                    733 mL
   PO:
             TF:
                                                                  1,666 mL
                                                                    554 mL
   IVF:
                                                                  1,290 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    800 mL
   Urine:
                                                                  1,880 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,516 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: NAD, on vent through trach.
   HEENT: PERRL, neg scleral icterus. MM moist.  Neck supple
   CV: Distant heart sounds, Nl S1+S2, no m/r/g
   Resp: Course breath sounds bilaterally
   Abdominal: Soft, Non-tender, distended, +BS, G tube c/d/i
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   254 K/uL
   9.4 g/dL
   163 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
                             [**2141-7-9**]  04:09 AM
   WBC
   8.4
   5.7
   4.7
   Hct
   28.0
   27.6
   28.7
   Plt
   346
   288
   254
   Cr
   0.3
   0.4
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   163
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Microbiology: Sputum ([**7-6**]) - Prelim 3+ gram neg rods x2, 2+ budding
   yeast.
   BCx ([**7-6**]) - Pending
   UCx ([**7-6**]) - Negative
   PICC tip ([**7-6**]) - Prelim coag neg staph.
   Assessment and Plan
   A/P Mr. [**Known lastname 3375**] is a 53 year old male with PMH of chronic vent/trach,
   severe COPD, prior L CVA with residual R-sided weakness, and recent
   admission for VAP who presents from rehab after being found
   unresponsive.
   # Hypotension: Systolic BP 70s at rehab and on arrival to ED.
   Continues to have SBP intermitently in the 90
   - Treat possible PNA with broad spectrum antibiotics as above.  Follow
   culture data.
   - Continue with IV hydrocortisone for likely adrenal insufficiency.
   - Continue to hold home diltiazem and lasix.
   - Continue to bolus IVF as needed.  Was net +1.5 L yesterday.
   # PICC line
 placement by IR likely Monday.
   # Leukocytosis: Likely due to infection versus steroid induced.
   - WBC this AM was 4.7. Continue to trend CBC
   - Continue with steroids
   - d/c femoral line when PICC placed.
   # Acute renal failure: b/l 0.2-0.3, 0.5 on presentation which may be
   acute renal failure for him.
   - AM creatinine of 0.4, continue to trend
   - Oliguric overnight, IVF bolus as necessary.
   # Anemia: Baseline hct 25-27.  Hct on admission was 32.3, again may
   point towards decreased volume status as etiology of hypotension.
   Currently 28.7.
   # Right leg pain: He had this pain for several years, it is unchanged
   and he is on chronic narcotics. On exam no evidence of edema or
   tenderness.  Complained of breakthrough pain through acetaminophen
   overnight and received oxycodone 5mg with improvement.
   - continue PRN pains meds, but hold for sedation
   # Recent history of suicidal ideation during last admission was
   followed by psychiatry and had 1:1 sitter.  Pt denies any suicidal or
   homocidal ideation currently.
   - Continue with home psychiatric medications.
   # Diabetes mellitus: Elevated BG last admission in setting of steroid
   use.
   - FS between 100-200.
   - Continue glargine and insulin sliding scale
   - Consider insulin drip if hyperglycemic.
   # Constipation:
   - Standing lactulose PRN, also receiving colase and senna.
   # Seizure disorder:
   - Continue outpatient dose of levetiracetam 250 mg PO BID, divalproex
   875 mg TID
   - consider neuro consult EEG
   # Schizophrenia:
   - Continue outpatient dose of risperidone
   # F/E/N: Tube feeds via PEG
   - Monitor lytes and replete PRN
   # PPx: proton pump inhibitor for stress ulcer prophylaxis, SC
   heparin for DVT prophylaxis
   # Access: Right femoral line.  Plan to order PICC placement so that
   femoral line can be pulled.
   # Communication: Guardian [**Name (NI) 149**] [**Name (NI) 3322**] [**Telephone/Fax (1) 3316**], fax
   [**Telephone/Fax (1) 3377**].
   # Code: Full.  He has a guardian.  [**Name (NI) 53**] has mentioned to team
   members that he does not with to return to rehab hospital.  Will
   discuss with guardian and patient today further regarding code status
   and potential options including do not rehospitalize.
   # Dispo: Rehab hospital when PICC placed.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-9**] 01:50 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-07-10 07:59:00 Physician Resident Progress Note
Chief Complaint: unresponsive  and hypotension
   24 Hour Events:
   Refused am labs.
   Attempted to discuss code status, goals of treatment, etc. but patient
   did not want to discuss.
   Refused PICC line [** 3432**] by IR.
   Hypotension (85/50) responded to 250 mL NS IV bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2141-7-7**] 04:04 PM
   Vancomycin - [**2141-7-9**] 08:00 AM
   Cefipime - [**2141-7-9**] 07:27 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-7-9**] 11:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-10**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 95 (83 - 112) bpm
   BP: 108/47(62) {108/47(62) - 131/67(82)} mmHg
   RR: 14 (5 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,834 mL
                                                                    682 mL
   PO:
             TF:
                                                                  1,694 mL
                                                                    553 mL
   IVF:
                                                                    540 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    179 mL
   Urine:
                                                                  2,560 mL
                                                                    179 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    274 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 6 L/min
   Physical Examination
   Gen: NAD
   Peripheral Vascular:  pedal pulses 1+ bilaterally, radial pulses 2+,
   extremities warm, dry
   CV: RRR
   Lungs: coarse breath sounds bilaterally
   Abd: +bs, g tube, soft, ntnd
   Labs / Radiology
   254 K/uL
   9.4 g/dL
   163 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
                             [**2141-7-9**]  04:09 AM
   WBC
   8.4
   5.7
   4.7
   Hct
   28.0
   27.6
   28.7
   Plt
   346
   288
   254
   Cr
   0.3
   0.4
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   163
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P Mr. [**Known lastname 3375**] is a 53 year old male with PMH of chronic vent/trach,
   severe COPD, prior L CVA with residual R-sided weakness, and recent
   admission for VAP who presents from rehab after being found
   unresponsive.
   # Hypotension: Systolic BP 70s at rehab and on arrival to ED.
   Continues to have SBP intermitently in the 80
   - Continue to treat possible PNA with broad spectrum antibiotics
   (cefipime and bactrim).  Follow culture data.
   - Continue with IV hydrocortisone 50mg IV q8h for three days before
   tapering to po steroids for likely adrenal insufficiency.
   - Continue to hold home diltiazem and lasix.
   - Continue to bolus IVF as needed.
   # PICC line
 PICC nurse [**First Name (Titles) 46**] [**Last Name (Titles) 3432**] this morning without
   success.  Pt is currently refusing IR PICC [**Last Name (Titles) 3432**].
   Will discuss need for PICC line with patient.
   # Leukocytosis: Likely due to infection versus steroid induced.
   - WBC this AM was 4.7. Continue to trend CBC
   - Continue with steroids
   - d/c femoral line when PICC placed.
   # Acute renal failure: b/l 0.2-0.3, 0.5 on presentation which may be
   acute renal failure for him.
   - AM creatinine of 0.4, continue to trend
   - Oliguric overnight, IVF bolus as necessary.
   # Anemia: Baseline hct 25-27.  Hct on admission was 32.3, again may
   point towards decreased volume status as etiology of hypotension.
   Currently 28.7.
   # Right leg pain: He had this pain for several years, it is unchanged
   and he is on chronic narcotics. On exam no evidence of edema or
   tenderness.  Complained of breakthrough pain through acetaminophen
   overnight and received oxycodone 5mg with improvement.
   - continue PRN pains meds, but hold for sedation
   # Recent history of suicidal ideation during last admission was
   followed by psychiatry and had 1:1 sitter.
   - Continue with home psychiatric medications.
   # Diabetes mellitus: Elevated BG last admission in setting of steroid
   use.
   - FS between 100-200.
   - Continue glargine and insulin sliding scale
   - Consider insulin drip if hyperglycemic.
   # Constipation:
   - Standing lactulose PRN, also receiving colase and senna.
   # Seizure disorder:
   - Continue outpatient dose of levetiracetam 250 mg PO BID, divalproex
   875 mg TID
   - consider neuro consult EEG
   # Schizophrenia:
   - Continue outpatient dose of risperidone
   # F/E/N: Tube feeds via PEG
   - Monitor lytes and replete PRN
   # PPx: proton pump inhibitor for stress ulcer prophylaxis, SC
   heparin for DVT prophylaxis
   # Access: Right femoral line.  Will d/c when PICC line is placed.
   # Communication: Guardian [**Name (NI) 149**] [**Name (NI) 3322**] [**Telephone/Fax (1) 3316**], fax
   [**Telephone/Fax (1) 3377**].
   # Code: Full.  He has a guardian.  [**Name (NI) 53**] has mentioned to team
   members that he does not with to return to rehab hospital.  Will
   discuss with guardian and patient today further regarding code status
   and potential options including do not rehospitalize.
   # Dispo: Rehab hospital when PICC placed.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-9**] 01:50 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-10**] 05:30 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-07-10 11:00:00 Physician Attending Progress Note
Chief Complaint: Unresponsiveness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Comfortable
   24 Hour Events:
   Refusing PIC line
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2141-7-7**] 04:04 PM
   Vancomycin - [**2141-7-9**] 08:00 AM
   Cefipime - [**2141-7-10**] 08:55 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-7-10**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2141-7-10**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2141-7-10**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 99 (83 - 112) bpm
   BP: 98/68(76) {95/43(56) - 131/68(82)} mmHg
   RR: 12 (5 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,834 mL
                                                                  1,225 mL
   PO:
             TF:
                                                                  1,694 mL
                                                                    766 mL
   IVF:
                                                                    540 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    469 mL
   Urine:
                                                                  2,560 mL
                                                                    469 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    274 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trache tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: ), prolonged
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   254 K/uL
   163 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
                             [**2141-7-9**]  04:09 AM
   WBC
   8.4
   5.7
   4.7
   Hct
   28.0
   27.6
   28.7
   Plt
   346
   288
   254
   Cr
   0.3
   0.4
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   163
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure
   COPD
   Bronchiectasis
   Decreased cardiac fxn
   Schizophrenia
   Continues to improve. Minimal secretions. 2 more days of abx scheduled.
   Planfor PIC today. Would continue to try to wean although certainly has
   seveer underlying lung dis
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-10**] 05:30 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Comments: Plan for PIC to remove Fem Line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2141-07-11 07:18:00 Physician Resident Progress Note
Chief Complaint: unresponsive and hypotension
   24 Hour Events:
   Refusing PICC line placement by IR for today
   Refused am labs
   PEG tube is obstructed
   Reviewed General Consent for Adult Intensive Care Unit with patient.
   He gave verbal consent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-7-9**] 08:00 AM
   Cefipime - [**2141-7-10**] 08:55 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-7-10**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2141-7-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 75 (74 - 102) bpm
   BP: 105/55(68) {82/42(51) - 133/68(80)} mmHg
   RR: 0 (0 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,656 mL
                                                                    172 mL
   PO:
             TF:
                                                                  1,386 mL
   IVF:
                                                                    840 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,754 mL
                                                                    755 mL
   Urine:
                                                                  1,754 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -583 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   Gen: NAD
   CV: RRR, No M/R/G
   Lungs: coarse bs bilaterally
   Abd: soft, ntnd, decreased bs, PEG
   Extremities: 1+ pedal pulses, 2+ radial pulses, no edema, no cyanosis
   Labs / Radiology
   254 K/uL
   9.4 g/dL
   163 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
                             [**2141-7-9**]  04:09 AM
   WBC
   8.4
   5.7
   4.7
   Hct
   28.0
   27.6
   28.7
   Plt
   346
   288
   254
   Cr
   0.3
   0.4
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   163
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P Mr. [**Known lastname 3375**] is a 53 year old male with PMH of chronic vent/trach,
   severe COPD, prior L CVA with residual R-sided weakness, and recent
   admission for VAP who presents from rehab after being found
   unresponsive.
   # Hypotension: Systolic BP 70s at rehab and on arrival to ED.
   Continues to have SBP intermitently in the 80
   - Continue to treat possible PNA with broad spectrum antibiotics
   (cefipime and bactrim).  Follow culture data.
   - Continue with IV hydrocortisone 50mg IV q8h for two more days before
   tapering to po steroids for likely adrenal insufficiency.
   - Continue to hold home diltiazem and lasix.
   - Continue to bolus IVF as needed.
   # PICC line
 Pt is currently refusing IR PICC placement.  Consider
   discharge to rehab without PICC line and omitting final dose of
   antibiotics (last day [**2141-7-12**]).
   # PEG obstruction: attempt pancreatic enzymes, changed Keppra
   administration to IV
   # Leukocytosis: Likely due to infection versus steroid induced.
   - Continue to trend CBC
   - Continue with steroids
   - d/c femoral line when PICC placed.
   # Acute renal failure: b/l 0.2-0.3, 0.5 on presentation which may be
   acute renal failure for him.
   - AM creatinine of 0.4, continue to trend
   # Anemia: Baseline hct 25-27.  Hct on admission was 32.3, again may
   point towards decreased volume status as etiology of hypotension.
   Currently 28.7.
   # Right leg pain: He had this pain for several years, it is unchanged
   and he is on chronic narcotics. On exam no evidence of edema or
   tenderness.  Complained of breakthrough pain through acetaminophen
   overnight and received oxycodone 5mg with improvement.
   - continue PRN pains meds, but hold for sedation
   # Recent history of suicidal ideation during last admission was
   followed by psychiatry and had 1:1 sitter.
   - Continue with home psychiatric medications.
   # Diabetes mellitus: Elevated BG last admission in setting of steroid
   use.
   - FS between 100-200.
   - Continue glargine and insulin sliding scale
   - Consider insulin drip if hyperglycemic.
   # Constipation:
   - Standing lactulose PRN, also receiving colase and senna.
   # Seizure disorder:
   - Continue outpatient dose of levetiracetam 250 mg PO BID, divalproex
   875 mg TID
   - consider neuro consult EEG
   # Schizophrenia:
   - Continue outpatient dose of risperidone
   # F/E/N: Tube feeds via PEG
   - Monitor lytes and replete PRN
   # PPx: proton pump inhibitor for stress ulcer prophylaxis, SC
   heparin for DVT prophylaxis
   # Access: Right femoral line.  Will d/c when PICC line is placed.
   # Communication: Guardian [**Name (NI) 149**] [**Name (NI) 3322**] [**Telephone/Fax (1) 3316**], fax
   [**Telephone/Fax (1) 3377**].
   # Code: Full.  He has a guardian.  [**Name (NI) 53**] has mentioned to team
   members that he does not with to return to rehab hospital.  Will
   discuss with guardian and patient today further regarding code status
   and potential options including do not rehospitalize.
   # Dispo: Rehab hospital when PICC placed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-07-11 11:05:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Refused IR PIC
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-7-9**] 08:00 AM
   Cefipime - [**2141-7-11**] 10:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-7-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: PEG blocked
   Flowsheet Data as of  [**2141-7-11**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 86 (74 - 97) bpm
   BP: 127/70(83) {82/39(51) - 133/70(83)} mmHg
   RR: 13 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,656 mL
                                                                    260 mL
   PO:
             TF:
                                                                  1,386 mL
   IVF:
                                                                    840 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,754 mL
                                                                  1,355 mL
   Urine:
                                                                  1,754 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                 -1,096 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trache
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, PEG
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   254 K/uL
   163 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
                             [**2141-7-9**]  04:09 AM
   WBC
   8.4
   5.7
   4.7
   Hct
   28.0
   27.6
   28.7
   Plt
   346
   288
   254
   Cr
   0.3
   0.4
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   163
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure
   COPD
   Tracheotomy
   Schizophrenia
   We still have no clear evidence he is unweanable. Would be inclined to
   switch to PSV and see what he does.  Not now on diuretics so would be
   inclined to restart and make him as dry as possible. Has nearly
   completed course of abx. Needs femoral line removed as this is high
   risk
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility after
   completing abx
   Total time spent: 35 minutes

2141-07-11 15:28:00 Physician Resident Progress Note
Chief Complaint: unresponsive and hypotension
   24 Hour Events:
   PEG tube obstructed yesterday po pm meds were held with exception of
   Keppra which was changed to IV.
   Pt still refusing IR PICC placement.
   Pt still refusing am labs.
   Pt expressed disinterest in going back to rehab.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-7-9**] 08:00 AM
   Cefipime - [**2141-7-11**] 10:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-7-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-11**] 03:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 81 (74 - 94) bpm
   BP: 116/65(77) {93/39(53) - 133/70(83)} mmHg
   RR: 8 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,656 mL
                                                                    744 mL
   PO:
             TF:
                                                                  1,386 mL
                                                                     42 mL
   IVF:
                                                                    840 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  1,754 mL
                                                                  1,755 mL
   Urine:
                                                                  1,754 mL
                                                                  1,755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                 -1,012 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 6 L/min
   Physical Examination
   Gen: NAD
   CV: RRR, no M/R/G
   Lungs: coarse bs bilaterally
   Abd: soft, ntnd, +bs, PEG in place
   Extremities: no cyanosis, edema, 1+ pedal pulses, 2+radial pulses
   Labs / Radiology
   254 K/uL
   9.4 g/dL
   163 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2141-7-6**]  09:54 PM
                             [**2141-7-7**]  03:13 AM
                             [**2141-7-8**]  05:02 AM
                             [**2141-7-9**]  04:09 AM
   WBC
   8.4
   5.7
   4.7
   Hct
   28.0
   27.6
   28.7
   Plt
   346
   288
   254
   Cr
   0.3
   0.4
   0.4
   TropT
   <0.01
   Glucose
   124
   154
   163
   Other labs: CK / CKMB / Troponin-T:[**9-13**]/<0.01, Differential-Neuts:77.9
   %, Band:0.0 %, Lymph:17.6 %, Mono:4.0 %, Eos:0.4 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P Mr. [**Known lastname 3375**] is a 53 year old male with PMH of chronic vent/trach,
   severe COPD, prior L CVA with residual R-sided weakness, and recent
   admission for VAP who presents from rehab after being found
   unresponsive.
   # Hypotension: Systolic BP 70s at rehab and on arrival to ED.
   Continues to have SBP intermitently in the 80
   - Continue to treat possible PNA with broad spectrum antibiotics
   (cefipime and bactrim).  Follow culture data.
   - Change IV hydrocortisone 50mg IV q8h to hydrocortisone 20mg po qam
   and 5mg po qpm for likely adrenal insufficiency.
   - Continue to bolus IVF as needed.
   #ventilator dependence:  currently on volume control.  Discuss with
   respiratory therapy a trial of pressure support ventilation.
   # PICC line
 Pt is currently refusing IR PICC placement.  Plan to
   discharge without line placement.  Pt has only one day remaining of IV
   antibiotic treatment (last day cefepime [**2141-7-12**]).  Will d/c femoral line
   at time of discharge.
   #PEG obstruction: attempt pancreatic enzymes to dissolve obstruction.
   If conservative measures do not resolve obstruction consult IR.  Once
   obstruction is cleared return Keppra to po administration.
   # Anemia: Baseline hct 25-27. Last Hct 28.7.
   # Right leg pain: He had this pain for several years, it is unchanged
   and he is on chronic narcotics. On exam no evidence of edema or
   tenderness.  Complained of breakthrough pain through acetaminophen
   overnight and received oxycodone 5mg with improvement.
   - continue PRN pains meds, but hold for sedation
   # Recent history of suicidal ideation during last admission was
   followed by psychiatry and had 1:1 sitter.
   - Continue with home psychiatric medications.
   # Diabetes mellitus: Elevated BG last admission in setting of steroid
   use.
   - FS between 100-200.
   - Continue glargine and insulin sliding scale
   - Consider insulin drip if hyperglycemic.
   # Constipation:
   - Standing lactulose PRN, also receiving colase and senna.
   # Seizure disorder:
   - Continue outpatient dose of levetiracetam 250 mg PO BID, divalproex
   875 mg TID
   # Schizophrenia:
   - Continue outpatient dose of risperidone
   # F/E/N: Tube feeds via PEG
   - Monitor lytes and replete PRN
   # PPx: proton pump inhibitor for stress ulcer prophylaxis, SC
   heparin for DVT prophylaxis
   # Access: Right femoral line.  Will d/c at time of discharge to rehab
   # Communication: Guardian [**Name (NI) 149**] [**Name (NI) 3322**] [**Telephone/Fax (1) 3316**], fax
   [**Telephone/Fax (1) 3377**].
   # Code: Full.  He has a guardian.  [**Name (NI) 53**] has mentioned to team
   members that he does not with to return to rehab hospital.  Will
   discuss with guardian and patient today further regarding code status
   and potential options including do not rehospitalize.
   # Dispo: Rehab hospital tomorrow.  Consult case manager to discuss
   options for rehab facilities.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2141-7-11**] 01:03 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-7-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: